Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ y/o M w/ history of IVDU now on methadone for 3 weeks
presenting for jaundice and abdominal pain. He has had RUQ and
right flank pain for the past 2 weeks that has been improving.
Pain was not related to food intake and consistently present.
Pain has resolved since yesterday. 

Patient became reportedly jaundiced about 3 weeks ago, prior to
the onset of abdominal pain with significant improvement now.
Patient was evaluated at ___ for abdominal pain 10 days ago
but left AMA. He had an abdominal ultrasound 1 week ago at OSH
and told to report to the ED yesterday when his results were
reviewed. 

Pertinent ED course (including exam, labs, imaging, consults,
treatment):

Hepatology was consulted in ED:
OSH labs consistent with HCV with immunity to HBV/HAV. HIV neg.
Would also consider possible DILI
- MRCP to evaluate ducts
- Blood cultures x3
- Quantitative immunoglobulins, ceruplasmin, HCV viral load and
genotype, HSV, VZV, EBV serologies, mono spot, ___,
Anti-mitochondrial ab, ant-smooth muscle ab, and RPR
- Evaluate for new medications for DILI

ED vitals:
99.5 HR 98, BP 135/78 RR 18 O2 100% RA

ED meds:
Gabapentin 800mg x3
Methadone 50mg 
Clonazepam 2mg
Nicotine patch 21mg 
Amphetamine-dextroamphetamine 20mg 

Upon arrival to the floor, the patient denies abdominal pain,
n/v, diarrhea/constipation, fever or chills, or weight loss. 

He has been using IV heroin for about a month prior to reporting
to detox center last month and starting detox. He's been on
methadone for 3 weeks since then. Denies sharing needles. Notes
that he hasn't had nausea/vomiting since detox. No recent travel
outside the country. No recent illnesses. 

He had been using anabolic steroids including T400 and E2
steroids for 6 months post incarceration from ___ until
___. He's also been intermittently using Milk thistle and
aromacin and OTC vitamins such as Omega 3 &6. 

On review of OSH atrius records, patient had Positive Hep C ab,
Neg HBcAb, HBsAg and positive HBsab and Hep A antibody. HIV
negative. Labs from ___ shows AST 1104 and ALT 1687 with Tbili
17.7
 
REVIEW OF SYSTEMS:  
10 point review of system negative except per HPI. 

 
Past Medical History:
IVDU on methadone
Seizures ___ to trauma 

Surgical history:
appendectomy
hernia repair
facial reconstructive surgery post trauma 
 
Social History:
___
Family History:
Grandfather and uncle with prostate cancer. No liver diseases
 
Physical Exam:
Admission Exam:
VITALS:97.6 PO 130 / 83 82 18 98 Ra  
GENERAL: lying in bed comfortably AOx3
HEENT: icteric conjunctiva, PERRLA, EOMI
CV: RRR, no r/m/g
RESP: CTAB
GI: +BS, soft, NTND, no hepatosplenomegaly, negative ___ 
test

MSK: warm, well perfused, no ___ edema
SKIN: Jaundiced, multiple tattoos, no rash
NEURO: AOx3, moving all extremities equally, no asterixis 

Discharge Exam:
Less than 24 hours after admission exam. No significant changes.
 
Pertinent Results:
Admission Labs:

___ 01:07PM   GLUCOSE-107* UREA N-10 CREAT-0.9 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-99 TOTAL CO2-28 ANION GAP-12
___ 01:07PM   ALT(SGPT)-316* AST(SGOT)-202* ALK PHOS-121 
TOT BILI-5.1*
___ 01:07PM   ALBUMIN-4.1 CALCIUM-9.4 PHOSPHATE-3.8 
MAGNESIUM-2.0
___ 11:19AM   WBC-8.7 RBC-5.18 HGB-14.8 HCT-42.6 MCV-82 
MCH-28.6 MCHC-34.7 RDW-19.8* RDWSD-54.1*
___ 11:19AM   NEUTS-56.0 ___ MONOS-8.5 EOS-2.5 
BASOS-0.5 NUC RBCS-0.2* IM ___ AbsNeut-4.85 AbsLymp-2.77 
AbsMono-0.74 AbsEos-0.22 AbsBaso-0.04
___ 11:19AM   PLT COUNT-165
___ 01:19AM   AMA-NEGATIVE Smooth-NEGATIVE
___ 01:19AM   ___
___ 01:19AM   IgG-1485 IgA-338 IgM-140
___ 01:19AM   HCV VL-4.9*
___ 08:42PM URINE  HOURS-RANDOM
___ 08:42PM URINE  UHOLD-HOLD
___ 08:42PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:42PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM* UROBILNGN-8* PH-6.5 
LEUK-NEG
___ 08:42PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:42PM URINE  MUCOUS-RARE*
___ 06:54PM   LACTATE-1.5
___ 06:48PM   GLUCOSE-60* UREA N-11 CREAT-1.0 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-31 ANION GAP-12
___ 06:48PM   estGFR-Using this
___ 06:48PM   ALT(SGPT)-356* AST(SGOT)-204* ALK PHOS-131* 
TOT BILI-5.3* DIR BILI-3.0* INDIR BIL-2.3
___ 06:48PM   LIPASE-17
___ 06:48PM   ALBUMIN-4.2
___ 06:48PM   WBC-9.2 RBC-4.78 HGB-13.5* HCT-40.9 MCV-86 
MCH-28.2 MCHC-33.0 RDW-15.5 RDWSD-48.1*
___ 06:48PM   NEUTS-55.9 ___ MONOS-7.4 EOS-2.1 
BASOS-0.5 IM ___ AbsNeut-5.15 AbsLymp-3.10 AbsMono-0.68 
AbsEos-0.19 AbsBaso-0.05
___ 06:48PM   PLT COUNT-230
___ 06:48PM   ___ PTT-31.9 ___

Discharge Labs:

___ 06:50AM BLOOD WBC-6.1 RBC-4.72 Hgb-13.4* Hct-40.9 
MCV-87 MCH-28.4 MCHC-32.8 RDW-15.8* RDWSD-49.7* Plt ___
___ 11:19AM BLOOD Neuts-56.0 ___ Monos-8.5 Eos-2.5 
Baso-0.5 NRBC-0.2* Im ___ AbsNeut-4.85 AbsLymp-2.77 
AbsMono-0.74 AbsEos-0.22 AbsBaso-0.04
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-31.3 ___
___ 06:50AM BLOOD Glucose-77 UreaN-11 Creat-1.0 Na-141 
K-4.5 Cl-100 HCO3-29 AnGap-12
___ 06:50AM BLOOD ALT-298* AST-243* AlkPhos-117 
TotBili-4.9*
___ 06:50AM BLOOD Calcium-9.5 Phos-3.8 Mg-1.8
___ 01:19AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 01:19AM BLOOD ___
___ 01:19AM BLOOD IgG-1485 IgA-338 IgM-140
___ 01:19AM BLOOD HCV VL-4.9*
___ 06:54PM BLOOD Lactate-1.5
___ 06:50AM BLOOD VARICELLA ZOSTER VIRUS DNA, PCR-PND
___ 06:50AM BLOOD HERPES SIMPLEX VIRUS, TYPE 1 & 2 DNA, 
QUANTITATIVE REAL TIME PCR-PND

Microbiology:
BCx: pending x2
EBV '
___ VIRUS VCA-IgG AB (Final ___:    POSITIVE BY 
EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

RPR: Negative
MONOSPOT: negative

Imaging:
MRCP ___:   
Prominence of the CBD measuring up to 8 mm with mild 
intrahepatic biliary 
prominence but without definite filling defect or mass. Findings 
are 
nonspecific but could be seen in the context of ampullary 
stenosis. Otherwise 
unremarkable examination. 

Abdominal USN: 1.  Mildly dilated common bile duct to 7 mm with 
no choledocholithiasis 
detected, however the distal common bile duct is not imaged on 
the current 
ultrasound exam.  MRCP is recommended to further assess for a 
distal common 
bile duct obstructing lesion. 
2.  Patent portal vein and normal hepatic parenchyma. 

 
Brief Hospital Course:
___ with history of IVDU now on methadone for 3 weeks, seizures
___ trauma presenting with Jaundice and transaminitis. 

ACUTE/ACTIVE PROBLEMS:
# Transaminitis
# Jaundice
# Direct hyperbilirubinemia: The patient was recently seen at 
outside hospital for evaluation of transminitis with AST/ALT to 
100's with Tbili elevated around 10. On admission to ___ his 
bili and AST/ALT were downtrending and the patient's pain was 
resolving. Found to have elevated HCV VL to 5.6 on log scale. 
Negative ___, AMA, anti-smooth muscle, and normal immunoglobulin 
levels make autoimmune hepatitis unlikely. Patient also admitted 
to using anabolic steroids which could have been a precipitating 
factor of a drug induced liver toxicity. An MRCP was done given 
mildly abnormal bile duct on RUQUS, and the MRCP showed upper 
level of normal (8mm) ductal dilation with ?concern for 
ampullary stenosis, but only would be concerned if he had 
persistent pain. We discharged the patient with plan for liver 
clinic follow up as above for Hep C treatment discussion and 
further workup of transminitis. He felt well on the day of 
discharge. There were EBV, and HSV serologies pending on 
discharge and VZV viral load.

#History of IVDU on methadone- Underwent detox and started on 
methadone 3 weeks ago and is followed at ___ clinic at 
___.
Received methadone 50mg in ED. Continue methadone 50mg daily 

CHRONIC/STABLE PROBLEMS:
# Seizures- Seizure onset after trauma to head but has not had a
seizure for the past year. Continued Gabapentin 800mg QID

#Anxiety- Continued clonazepam 1mg BID

Transitional Issues:
==========================
[] F/u with hepatology, Dr. ___ treatment of hepatitis C 

[] ___ clinic (last dose received on ___ of 50mg)
[] F/u with EBV, HSV, and VZV labs 
[] Labs in 1 week to ensure continued improvement of 
transaminitis 
[] F/u final MRCP read

#Code: full (presumed)
#Contact: ___ (Mother) H: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO QID:PRN pain 
2. Cetirizine 10 mg PO DAILY 
3. ClonazePAM 1 mg PO BID 
4. Amphetamine-Dextroamphetamine 20 mg PO BID 
5. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
6. Methadone 50 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 800 mg PO QID pain  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing  
3.  Amphetamine-Dextroamphetamine 20 mg PO BID  
4.  Cetirizine 10 mg PO DAILY  
5.  ClonazePAM 1 mg PO BID  
6.  Methadone 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute hepatocellular injury
Hepatitis C 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- you had abnormal liver function tests and had recent abdominal 
pain and yellowing of your skin 

WHAT HAPPENED IN THE HOSPITAL?
- You had MRI imaging of your liver which did not show any major 
abnormalities
- You had extensive lab workup for possible causes of liver 
injury that were negative with the exception of hepatitis C 
- You were seen by liver doctors for ___ and ___ need to 
follow up with them for treatment of hepatitis C
- You were given your methadone doses on ___

WHAT SHOULD YOU DO AT HOME?
- You should avoid taking any medications that can injure your 
liver such as steroids and other non-prescribed drugs
- You should follow up at ___ clinic to continue receiving 
methadone. It is important that you remain sober and clean as 
treatment of hepatitis C is not possible if you are using drugs 
- Follow up with Dr. ___ at the liver ___ for follow up of 
current liver injury and for treatment of Hep C

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___